US07514470B2
1,1-Dimethylethyl N-(3,4-dicyanophenyl)-N-(2,2,2-trifluoroethyl)alaninate
Synthesized in a manner similar to example 1B using 4-[(2,2,2-trifluoroethyl)amino]-1,2-benzenedicarbonitrile and 1,1-dimethylethyl 2-bromopropanoate: MS (ES) m/z 354 (M+1).

reactant | 4-[(2,2,2-trifluoroethyl)amino]-1,2-benzenedicarbonitrile | FC(CNC=1C=C(C(=CC1)C#N)C#N)(F)F | C10H6F3N3
reactant | 1,1-dimethylethyl 2-bromopropanoate | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
product | 1,1-Dimethylethyl N-(3,4-dicyanophenyl)-N-(2,2,2-trifluoroethyl)alaninate | C(#N)C=1C=C(C=CC1C#N)N([C@@H](C)C(=O)OC(C)(C)C)CC(F)(F)F | C17H18F3N3O2
